US06291452B1
A suspension of 9-chloro-5-(2-fluorophenyl)-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-4-oxide (1.475 g) in acetic anhydride (12 ml) was refluxed for 0.5 hour. The resultant clear solution was cooled in an ice-bath to afford precipitate. To the cooled suspension was added diisopropyl ether (20 ml) and the mixture was cooled further. The resultant precipitate was collected by filtration and washed with diisopropyl ether to give (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one (0.84 g, 50.0% yield) as a colorless crystalline powder.

reactant | 9-chloro-5-(2-fluorophenyl)-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-4-oxide | 1.475 g | ClC1=CC=CC=2C(=[N+](CC(NC21)=O)[O-])C2=C(C=CC=C2)F | C15H10ClFN2O2
reactant | diisopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 0.84 g, 50.0% yield | C(C)(=O)OC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2Cl)=O | C17H12ClFN2O3
